US09238639B2
A) Methyl(4-cyano-6-((triisopropylsilyl)oxy)-1-benzothiophen-3-yl)acetate
To a mixture of methyl(4-(((trifluoromethyl)sulfonyl)oxy)-6-((triisopropylsilyl)oxy)-1-benzothiophen-3-yl)acetate (5.8 g) and DMF (dry) (80 mL) were added zinc cyanide (2.095 mL) and Pd(Ph3P)4 (1.273 g) at room temperature, and the mixture was stirred at 100° C. for 20 h. The mixture was cooled to room temperature. The mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (1.920 g).

reactant | methyl(4-(((trifluoromethyl)sulfonyl)oxy)-6-((triisopropylsilyl)oxy)-1-benzothiophen-3-yl)acetate | 5.8 g | COC(CC1=CSC2=C1C(=CC(=C2)O[Si](C(C)C)(C(C)C)C(C)C)OS(=O)(=O)C(F)(F)F)=O | C21H29F3O6S2Si
reactant | DMF | 80 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 2.095 mL | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(Ph3P)4 | 1.273 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | Methyl(4-cyano-6-((triisopropylsilyl)oxy)-1-benzothiophen-3-yl)acetate | 1.920 g | COC(CC1=CSC2=C1C(=CC(=C2)O[Si](C(C)C)(C(C)C)C(C)C)C#N)=O | C21H29NO3SSi
